US08304419B2
Step A: bis(1,1-dimethylethyl) {3-[(3-chloro-5-cyanophenyl)oxy]-2-fluoro-4-nitrophenyl}propanedioate
Sodium hydride (60% dispersion in oil, 2.16 g, 54.1 mmol) was added to anhydrous THF (50 mL) and cooled to 0° C. under nitrogen. Di-tert-butyl malonate (4.65 g, 24.8 mmol) was added dropwise and the reaction mixture was stirred 15 min and allowed to warm to RT. The reaction was cooled to 0° C. and 3-chloro-5-[(2,3-difluoro-6-nitrophenyl)oxy]benzonitrile (7.0 g, 22.5 mmol) was added dropwise in a minimal amount of THF. The reaction was allowed to warm to RT and stirred for 3 h then 10% aqueous citric acid (50 ml) and EtOAc (50 mL) were added. The layers were separated and the aqueous layer was extracted with EtOAc (2×50 mL). The organic extracts were combined, washed with brine, dried over Na2SO4, filtered and evaporated to afford the title compound as an oil. 1H NMR (400 MHz, DMSO-d6): 6 ppm 8.13 (dd, 1H), 7.84 (d, 1H), 7.65 (dd, 1H), 7.59-7.61 (m, 1H), 7.56-7.59 (m, 1H), 5.10 (s, 1H), 1.40 (s, 18H). MS: m/z 507.2 (M+1).

reactant | Sodium hydride | 54.1 mmol, 2.16 g | [H-].[Na+]
reactant | Di-tert-butyl malonate | 24.8 mmol, 4.65 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | 3-chloro-5-[(2,3-difluoro-6-nitrophenyl)oxy]benzonitrile | 22.5 mmol, 7.0 g | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1[N+](=O)[O-])F)F | C13H5ClF2N2O3
reactant | citric acid | 50 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | bis(1,1-dimethylethyl) {3-[(3-chloro-5-cyanophenyl)oxy]-2-fluoro-4-nitrophenyl}propanedioate | ClC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1[N+](=O)[O-])C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)F | C24H24ClFN2O7
